US04335045
An N-alkenyl-2-aminomethyl-pyrrolidine is prepared by firstly reacting tetrahydrofurfurylamine with gaseous hydrochloric acid and thionyl chloride to produce 2,5 dichloropentylamine hydrochloride. This is acetylized, possibly by acetyl chloride in dichloroethane in the presence of triethylamine, into N-acetyl-2,5-dichloropentylamine which is condensed with an alkenylamine into an N-alkenyl-2-acetylaminomethyl pyrrolidine from which the acetyl group is separated, for example by boiling with concentrated hydrochloric acid.

reactant | tetrahydrofurfurylamine | C(C1CCCO1)N | C5H11NO
reactant | hydrochloric acid | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2,5 dichloropentylamine hydrochloride | Cl.ClC(CN)CCCCl | InChI=1S/C5H11Cl2N.ClH/c6-3-1-2-5(7)4-8;/h5H,1-4,8H2;1H
